US08957214B2
2-chloro-N-[1-((6-chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2-difluoroacetamide (Compound 239)
An amount of 53 mg (0.33 mmol) of 2-chloro-5-chloromethylpyridine dissolved in 6 mL of anhydrous acetonitrile was added to 68 mg (0.33 mmol) of 2-chloro-2,2-difluoro-N-(pyridin-2(1H)-ylidene)acetamide synthesized by the above method, following which 50 mg (0.36 mmol) of potassium carbonate was added and refluxing under heating was carried out for 1 hour. Following reaction completion, the reaction mixture was returned to room temperature then concentrated under reduced pressure. Diethyl ether was added to the concentrate, whereupon a solid separated out. The solid was collected by filtration and dried, affording the target compound in an amount of 49 mg (yield, 45%).

reactant | 2-chloro-5-chloromethylpyridine | 0.33 mmol, 53 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2-chloro-2,2-difluoro-N-(pyridin-2(1H)-ylidene)acetamide | 0.33 mmol, 68 mg | ClC(C(=O)N=C1NC=CC=C1)(F)F | C7H5ClF2N2O
reactant | potassium carbonate | 0.36 mmol, 50 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 2-chloro-N-[1-((6-chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2-difluoroacetamide | ClC(C(=O)N=C1N(C=CC=C1)CC=1C=NC(=CC1)Cl)(F)F | C13H9Cl2F2N3O
